US06165941
2-(4-Amino-3-nitrophenyl)-3-chloro-5-trifluoromethylpyridine
A solution of 50.0 g of 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine in 200 ml of tetrahydrofuran was treated with 200 g of a 25% strength by weight aqueous ammonia solution. After stirring at 23° C. for three days, the tetrahydrofuran was removed by distillation, whereupon the product crystallized. The crystals were separated off, washed with water and dried in a vacuum drying oven. Yield: 48.7 g (98%) of colorless crystals; m.p.: 126-127° C.

reactant | 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine | 50.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C12H5ClF4N2O2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(4-Amino-3-nitrophenyl)-3-chloro-5-trifluoromethylpyridine | NC1=C(C=C(C=C1)C1=NC=C(C=C1Cl)C(F)(F)F)[N+](=O)[O-] | C12H7ClF3N3O2
